US04831193
To a stirred mixture of benzotrifluoride (80.0 g, 0.55 m) and concentrated sulphuric acid (200 ml) was added fuming nitric acid (95% w/w; 29.3 ml, 44.0 g, 1.2 equivalents) over 30 minutes, maintaining the temperature of the stirred reaction mixture at between 20° and 30° by means of external cooling. After completion of the addition, stirring was continued at room temperature for a further hour and then the reaction mixture was poured onto a mixture of ice (1 kg) and water (100 ml). The resultant mixture was extracted with dichloromethane (2×250 ml) and the combined extracts washed with water (2×100 ml). The organic solution was then dried (over MgSO4) and evaporated under reduced pressure at 30° to give 3-nitrobenzotrifluoride (102 g, 94.0% w/w by GLC assay, 91% yield), as a pale-yellow oil.

reactant | benzotrifluoride | 80.0 g | C1(=CC=CC=C1)C(F)(F)F | C7H5F3
reactant | sulphuric acid | 200 ml | S(O)(O)(=O)=O | H2O4S
reactant | nitric acid | 29.3 ml, 44.0 g, 1.2 equivalents | [N+](=O)(O)[O-] | HNO3
solvent | water | 100 ml | O | H2O
product | 3-nitrobenzotrifluoride | 102 g, 91% yield | [N+](=O)([O-])C=1C=C(C=CC1)C(F)(F)F | C7H4F3NO2
